US07420001B2
To 550 mg of 4-cyano-3-methyl-benzofuran-2-carboxylic acid ethyl ester (2.4 mmol) in 15 mL of THF was added 5 mL of MeOH and 5 mL of 1N LiOH. The reaction was complete in 2 h. After quenching with 5 mL of 1 N HCl and work up, 4-cyano-3-methyl-benzofuran-2-carboxylic acid was obtained in quantitative yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.7 (s, 3 H) 7.7 (m, 1 H) 7.9 (d, J=7.3 Hz, 1 H) 8.1 (m, 1 H).

reactant | 4-cyano-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 2.4 mmol, 550 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)C#N | C13H11NO3
reactant | MeOH | 5 mL | CO | CH4O
reactant | LiOH | 1N, 5 mL | [Li+].[OH-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-cyano-3-methyl-benzofuran-2-carboxylic acid | quantitative yield | C(#N)C1=CC=CC2=C1C(=C(O2)C(=O)O)C | C11H7NO3
